US06080770
Example 4 5-Naphthalen-2-yl-3H-[1,3,4]oxadiazol-2-one
To a stirred mixture of naphthalene-2-carboxylic acid hydrazide (2.0 g, 10.7 mmol, pre pared as described in example 1) and triethylamine (1.1 g, 10.7 mmol) in dry tetrahydrofuran (40 ml) was added carbonyl diimidazole (2.2 g, 13.4 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 1 h and at room temperature for 17 h. The resulting reaction mixture was evaporated in vacuo and to the residue was added water (50 ml) and ethyl acetate (50 ml). The phases were separated and the organic phase was washed with saturated aqueous sodium chloride (2×25 ml), dried (MgSO4) and filtered and evaporated in vacuo affording 2.2 g of crude product which was recrystallised from a mixture of ethyl acetate and heptane 1:1 (60 ml) affording after drying in vacuo at 50° C. 1.2 g (52%) of the title compound as a solid.

reactant | naphthalene-2-carboxylic acid hydrazide | C1=C(C=CC2=CC=CC=C12)C(=O)NN | C11H10N2O
reactant | triethylamine | 10.7 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | carbonyl diimidazole | 13.4 mmol, 2.2 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-Naphthalen-2-yl-3H-[1,3,4]oxadiazol-2-one | 2.2 g | C1=C(C=CC2=CC=CC=C12)C1=NNC(O1)=O | C12H8N2O2
